US06172057B2
3-Biphenyl-4-yl-2-methyl-2-(1-methyl-1H-imidazole-2-sulfonyl)-propionic acid was prepared according to the general method as outlined in example 9. Starting from 3-biphenyl-4-yl-2-methyl2-(1-methyl-1H-imidazole-2-sulfonyl)-propionic acid ethyl ester (5.0 g, 11.9 mmol), ethanol (15 mL) and 10 N sodium hydroxide (10 mL). Yield 2.8 g (61%); brown solid mp 119-122° C.; MS 385.2 (M+H).

reactant | 3-biphenyl-4-yl-2-methyl2-(1-methyl-1H-imidazole-2-sulfonyl)-propionic acid ethyl ester | 11.9 mmol, 5.0 g | C(C)OC(C(CC1=CC=C(C=C1)C1=CC=CC=C1)(S(=O)(=O)C=1N(C=CN1)C)C)=O | C22H24N2O4S
reactant | sodium hydroxide | 10 N, 10 mL | [OH-].[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 3-Biphenyl-4-yl-2-methyl-2-(1-methyl-1H-imidazole-2-sulfonyl)-propionic acid | C1(=CC=C(C=C1)CC(C(=O)O)(S(=O)(=O)C=1N(C=CN1)C)C)C1=CC=CC=C1 | C20H20N2O4S
